US08486979B2
5-(1H-indazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 1H-indazole-5-carboxylic acid (ABCR) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.7 (dd, J=7.9, 4.8 Hz, 1 H), 7.8 (d, J=8.7 Hz, 1 H), 8.2 (dd, J=8.7, 1.6 Hz, 1 H), 8.4 (s, 1 H) 8.5 (dt, J=7.9, 1.8 Hz, 1 H), 8.7 (s, 1 H) 8.8 (dd, J=4.8, 1.6 Hz, 1 H), 9.3 (d, J=2.0 Hz, 1 H), 13.6 (s, 1 H) ppm; MS (DCI/NH3) m/z 264 (M+H)+.

reactant | 1H-indazole-5-carboxylic acid | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(1H-indazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1N=CC2=CC(=CC=C12)C1=NC(=NO1)C=1C=NC=CC1 | C14H9N5O
